US04294760
Methyl-5-(cyanohydroxyphenylmethyl)-1-methylpyrrole-2-acetate
A solution of 6.7 g (0.05 mole) of benzoylcyanide, 7.6 g (0.05 mole) of methyl 1-methylpyrrole-2-acetate and 0.2 g of trichloroacetic acid in 20 ml. of ether was stirred for four days at 25° C. under argon. The solution was cooled to 0° and the solid methyl 5-(cyanohydroxyphenylmethyl)-1-methylpyrrole-2-acetate was collected by filtration; mp 148°-153°, yield, 4.0 g (28 percent).

reactant | benzoylcyanide | 0.05 mole, 6.7 g | C(C1=CC=CC=C1)(=O)C#N | C8H5NO
reactant | methyl 1-methylpyrrole-2-acetate | 0.05 mole, 7.6 g | CN1C(=CC=C1)CC(=O)OC | C8H11NO2
reactant | trichloroacetic acid | 0.2 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
solvent | ether | CCOCC | C4H10O
product | Methyl-5-(cyanohydroxyphenylmethyl)-1-methylpyrrole-2-acetate | COC(CC=1N(C(=CC1)C(C1=CC=CC=C1)(O)C#N)C)=O | C16H16N2O3
